US04942176
2.61 g (0.01 mole) of 4-bromobenzophenone and 1.13 ml of butyrolactam (0.015 mole) are fused together at 180° C., and 1.4 g of K2CO3 and 0.63 g of Cu powder are added. The mixture is stirred at this temperature for 2 h, allowed to cool to 140° C. and then dissolved in ethyl acetate. Chromatography on silica gel eluting with toluene/ethyl acetate provides N-(4-benzoylphenyl)-2-pyrrolidinone of melting point 162°-164° C., which is immediately dissolved in 10 ml of methanol and 10 ml of 5 N NaOH and boiled under reflux for about 2 h. After the methanol has been removed by distillation, the mixture is acidified to pH 5, and the product is filtered off with suction. Melting point: 156°-158° C.

reactant | 4-bromobenzophenone | 0.01 mole, 2.61 g | BrC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9BrO
reactant | butyrolactam | 0.015 mole, 1.13 ml | C1(CCCN1)=O | C4H7NO
reactant | K2CO3 | 1.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-benzoylphenyl)-2-pyrrolidinone | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)N1C(CCC1)=O | C17H15NO2
